US07307094B2
A mixture of 9-methyl-9-aza-bicyclo[3.3.1]nonan-3-one (0.658 g, 4.29 mmol) and hydroxylamine hydrochloride (0.312 g, 4.49 mmol) in methanol (6 mL) was stirred for 20 h at room temperature, during which time a white precipitate formed. This solid was collected by filtration, rinsed with additional methanol (2×10 mL), and dried under vacuum for 1 h to afford 0.672 g (76% yield) of 9-methyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime hydrochloride as a white solid: 1H NMR (300 MHz, DMSO-d6) d 10.82 (s, 1H), 3.71-3.52 (m, 2H), 3.34-3.23 (m, 1H), 3.12 (d, J=17.5 Hz, 1H), 2.90-2.79 (m, 3H), 2.73-2.55 (m, 1H), 2.42 (d, J=16.8 Hz, 1H), 2.27-2.05 (m, 2H), 1.87-1.42 (m, 4H); MS (ESI) m/z 169 [M+H]+

reactant | 9-methyl-9-aza-bicyclo[3.3.1]nonan-3-one | 4.29 mmol, 0.658 g | CN1C2CC(CC1CCC2)=O | C9H15NO
reactant | hydroxylamine hydrochloride | 4.49 mmol, 0.312 g | Cl.NO
solvent | methanol | 6 mL | CO | CH4O
product | 9-methyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime hydrochloride | 0.672 g, 76% yield | Cl.CN1C2CC(CC1CCC2)=NO | InChI=1S/C9H16N2O.ClH/c1-11-8-3-2-4-9(11)6-7(5-8)10-12;/h8-9,12H,2-6H2,1H3;1H
